US06403610B1
A mixture of 1.1 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylate, 11 cm3 of triethylamine, 0.16 cm3 of tetrakis(triphenylphosphine)palladium, 0.053 g of cuprous iodide, and 0.47 cm3 of 1-bromo-2,5-difluorobenzene was stirred for 3 hours 15 minutes under an inert atmosphere at a temperature in the region of 80° C. After cooling to approximately 20° C., the reaction mixture had 30 cm3 of ethyl acetate and 30 cm3 of water added with stirring. The organic phase was separated, while the aqueous phase was extracted with 2 times 30 cm3 of ethyl acetate. The organic extracts were combined, washed with 3 times 25 cm3 of water, dried over sodium sulfate, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. A product was obtained, which product was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μm; diameter 3.3 cm; 50 g), elution was carried out with ethyl acetate, and a fraction of 300 cm3 first was collected, followed by 32-cm3 fractions. Fractions 7 to 22 were combined and then concentrated under the above conditions. 0.91 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate was obtained in the form of a foam with an off-white color.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylate | 1.1 g | OC(CC[C@H]1[C@H](CN(CC1)CC#C)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C23H28N2O4
reactant | triethylamine | 11 cm3 | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-2,5-difluorobenzene | 0.47 cm3 | BrC1=C(C=CC(=C1)F)F | C6H3BrF2
reactant | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.16 cm3 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 cm3 | O | H2O
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate | 0.91 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=C(C=CC(=C1)F)F)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H30F2N2O4
